US07276603B2
To a suspension of 5-chloro-8-hydroxy-quinoline (8.95 g) in 100 ml of CH2Cl2, 20 ml of TEA was added. The suspension was dissolved then cooled to −15° C. A solution of 21.1 g of triflic anhydride in 50 ml of CH2Cl2 was added dropwise, with cooling. After complete addition, the reaction was stirred at −15° C. for 30 min. The reaction was diluted with CH2Cl2, washed with a solution of NaHCO3, then with water, dried, and the solvent was removed to yield 15.0 g of 5-chloro-8-(trifluoromethylsulfonyloxy)-quinoline. MP: 80-83° C.; MS (ES) m/z (relative intensity): 312 (M++H,100). Elemental analysis for C10H5ClF3NO3S; Calculated: C: 38.54; H: 1.62; N: 4.4; Found: C: 38.3; H: 1.73; N: 4.5.

reactant | 5-chloro-8-hydroxy-quinoline | 8.95 g | ClC1=C2C=CC=NC2=C(C=C1)O | C9H6ClNO
reactant | triflic anhydride | 21.1 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 5-chloro-8-(trifluoromethylsulfonyloxy)-quinoline | 15.0 g | ClC1=C2C=CC=NC2=C(C=C1)OS(=O)(=O)C(F)(F)F | C10H5ClF3NO3S
